US04525203
3,4-Dihydro-N-(1,1-dimethylethyl)-2H-pyran-2-methanimine
A solution of 323.0 g of acrolein dimer in 230 ml of anhydrous ethanol was added dropwise to a solution of 251 ml of t-butylamine in 250 ml of anhydrous ethanol at 25° C. over 2 hours. The reaction mixture was stirred at room temperature overnight. The solvents were stripped off on a rotary evaporator to leave 295.5 g of a yellow oil. This oil was vacuum distilled at 8 mm Hg to give 223 g of a colorless oil at 63°-67° C. and four fractions of colorless oil were collected as follows: 2.82 g at 45°-63° C., 181.27 g at 63°-66° C., 42.42 g at 66°-67° C. and 37.09 g at 67°-70° C., and were a mixture of isomers of the desired product.

reactant | acrolein dimer | 323.0 g | C1CC(OC=C1)C=O | C6H8O2
reactant | t-butylamine | 251 ml | C(C)(C)(C)N | C4H11N
solvent | ethanol | 230 ml | C(C)O | C2H6O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3,4-Dihydro-N-(1,1-dimethylethyl)-2H-pyran-2-methanimine | 295.5 g | CC(C)(C)N=CC1OC=CCC1 | C10H17NO
